US09388189B2
(S)-2-(1-((5-(1-(3-Methoxyphenyl)-1H-pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(1H-Pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (88 mg, 0.15 mmol) was dissolved in N,N-dimethylformamide (1.5 ml). (3-Methoxyphenyl)boronic acid (46 mg, 0.30 mmol), copper(II) acetate (4 mg, 0.02 mmol) and pyridine (28 μL, 0.34 mmol) were added and the mixture was stirred at 75° C. during 96 h. The reaction was poured into ice-water mixture, basified to pH 10 with sodium carbonate and extracted twice with ethyl acetate. The organics were combined and washed with water, brine, dried over sodium sulphate, filtered and evaporated under reduced pressure. The residue was purified using SP1® Purification System (0% to 50%, hexane-ethyl acetate) to give 9 mg (9% yield) of the title compound.

reactant | (S)-2-(1-((5-(1H-Pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.15 mmol, 88 mg | N1N=C(C=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C30H35N9O2Si
reactant | (3-Methoxyphenyl)boronic acid | 0.30 mmol, 46 mg | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | pyridine | 0.34 mmol, 28 μL | N1=CC=CC=C1 | C5H5N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
catalyst | copper(II) acetate | 0.02 mmol, 4 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (S)-2-(1-((5-(1-(3-Methoxyphenyl)-1H-pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 9 mg, 9% yield | COC=1C=C(C=CC1)N1N=C(C=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C37H41N9O3Si
